* C:\Users\adwol\OneDrive\Documents\Power Amp\LTspice\push_pull_swing.asc
XQ1 vpower N007 P001 tip102
XQ2 0 N011 P002 tip107
R1 P001 v+ 1
R2 v+ P002 1
R3 vpower N007 2.1k
R4 N011 0 2.1k
Q3 N007 N012 N011 0 2N3904
R5 N007 N012 7k
R6 N012 N011 3k
C1 N007 N011 10µ
C2 N007 N011 0.1µ
R7 N010 0 10k
R8 v+ N010 10k
R9 N010 P003 2k
C3 P003 0 330p
XQ4 vpower N008 P004 tip102
XQ5 0 N014 P005 tip107
R10 P004 v- 1
R11 v- P005 1
R12 vpower N008 2.1k
R13 N014 0 2.1k
Q6 N008 N013 N014 0 2N3904
R14 N008 N013 7k
R15 N013 N014 3k
C4 N008 N014 10µ
C5 N008 N014 0.1µ
R16 N015 0 10k
R17 v- N015 10k
R18 N015 P006 2k
C6 P006 0 330p
R19 N006 vin 10k
R20 N006 voff 10k
R21 N009 vin_inv 10k
R22 N009 voff 10k
R23 v- v+ 4
XU3 N003 vin Vcc Vee vin TL074
XU4 N005 N002 Vcc Vee vin_inv TL074
R24 N002 vin 10k
R25 vin_inv N002 10k
R26 0 N005 5.1k
XU5 N004 N001 Vcc Vee voff TL074
R27 vcc N004 10k
R28 N004 0 10k
R29 voff N001 5.1k
V1 N003 0 SINE(0 7 1k)
V2 vpower 0 SINE(28 2 120)
V3 Vcc 0 28
V4 0 Vee 28
V5 vhi 0 30
V6 0 vlo -30
XU1 N006 N010 Vcc Vee N011 TL074
XU2 N009 N015 Vcc Vee N014 TL074
.model NPN NPN
.model PNP PNP
.lib C:\Users\adwol\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 0 50m 0 20u
.SUBCKT tip102 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Jan 20, 03
* MODEL FORMAT: SPICE3
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model area=11.2198
D1 3 1 dmodel
R1 2 4 8000
R2 4 3 120
* Default values used in dmodel
*   EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=10 N=1 XTI=3
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel npn
+IS=2.88485e-13 BF=126.335 NF=1.2 VAF=30
+IKF=0.132527 ISE=6.51929e-12 NE=1.9601 BR=0.100001
+NR=1.5 VAR=300 IKR=0.0843484 ISC=1.01027e-13
+NC=1.92564 RB=2.61873 IRB=0.2 RBM=2.61873
+RE=0.0001 RC=2.60372 XTB=0 XTI=4 EG=1.206
+CJE=1.13087e-10 VJE=0.95 MJE=0.692676 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=1.56651e-10
+VJC=0.908287 MJC=0.23 XCJC=0.897966 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model npn
+IS=2.88485e-13 BF=126.335 NF=1.2 VAF=30
+IKF=0.132527 ISE=6.51929e-12 NE=1.9601 BR=0.100001
+NR=1.5 VAR=300 IKR=0.0843484 ISC=1.01027e-13
+NC=1.92564 RB=2.61873 IRB=0.2 RBM=2.61873
+RE=0.0001 RC=2.60372 XTB=0 XTI=4 EG=1.206
+CJE=1.13087e-10 VJE=0.95 MJE=0.692676 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.908287 MJC=0.23 XCJC=0.897966 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS tip102
.SUBCKT tip107 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Jan 20, 03
* MODEL FORMAT: SPICE3
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model area=10.2983
D1 1 3 dmodel
R1 2 4 8000
R2 4 3 120
* Default values used in dmodel
*   EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=10 N=1 XTI=3
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel pnp
+IS=1.0012e-12 BF=116.055 NF=1.05819 VAF=92.7382
+IKF=0.149857 ISE=1.24495e-12 NE=1.70621 BR=0.999735
+NR=0.993731 VAR=100.194 IKR=0.0999992 ISC=1e-13
+NC=2 RB=10.3948 IRB=0.200382 RBM=10.1772
+RE=0.163782 RC=1.00023 XTB=0.505844 XTI=3.00058 EG=1.13482
+CJE=1.53127e-10 VJE=0.95 MJE=0.469947 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=2.51701e-10
+VJC=0.95 MJC=0.256722 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model pnp
+IS=1.0012e-12 BF=116.055 NF=1.05819 VAF=92.7382
+IKF=0.149857 ISE=1.24495e-12 NE=1.70621 BR=0.999735
+NR=0.993731 VAR=100.194 IKR=0.0999992 ISC=1e-13
+NC=2 RB=10.3948 IRB=0.200382 RBM=10.1772
+RE=0.163782 RC=1.00023 XTB=0.505844 XTI=3.00058 EG=1.13482
+CJE=1.53127e-10 VJE=0.95 MJE=0.469947 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.95 MJC=0.256722 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS tip107
;tran 0 10m 0 100u
* TL074 OPERATIONAL AMPLIFIER "MACROMODEL" SUBCIRCUIT
* CREATED USING PARTS RELEASE 4.01 ON 06/16/89 AT 13:08
* (REV N/A)      SUPPLY VOLTAGE: +/-15V
* CONNECTIONS:   NON-INVERTING INPUT
*                | INVERTING INPUT
*                | | POSITIVE POWER SUPPLY
*                | | | NEGATIVE POWER SUPPLY
*                | | | | OUTPUT
*                | | | | |
.SUBCKT TL074    1 2 3 4 5
*
C1   11 12 3.498E-12
C2    6  7 15.00E-12
DC    5 53 DX
DE   54  5 DX
DLP  90 91 DX
DLN  92 90 DX
DP    4  3 DX
EGND 99  0 POLY(2) (3,0) (4,0) 0 .5 .5
FB    7 99 POLY(5) VB VC VE VLP VLN 0 4.715E6 -5E6 5E6 5E6 -5E6
GA    6  0 11 12 282.8E-6
GCM   0  6 10 99 8.942E-9
ISS   3 10 DC 195.0E-6
HLIM 90  0 VLIM 1K
J1   11  2 10 JX
J2   12  1 10 JX
R2    6  9 100.0E3
RD1   4 11 3.536E3
RD2   4 12 3.536E3
RO1   8  5 150
RO2   7 99 150
RP    3  4 2.143E3
RSS  10 99 1.026E6
VB    9  0 DC 0
VC    3 53 DC 2.200
VE   54  4 DC 2.200
VLIM  7  8 DC 0
VLP  91  0 DC 25
VLN   0 92 DC 25
.MODEL DX D(IS=800.0E-18)
.MODEL JX PJF(IS=15.00E-12 BETA=270.1E-6 VTO=-1)
.ENDS

.option plotwinsize=0
.backanno
.end
